US07348347B2
1,1-Carbonyldiimidazole (CDI, 87 mg, 0.537 mmol) was added to a solution of 2-(3,3-dimethylbutyrylamino)-4,5,6,7-tetrahydrobenzthiazol-4-carboxylic acid (144 mg, 0.486 mmol) in CH2Cl2 (10 mL), and the resultant mixture was stirred for a period of 2 hours at room temperature. Following cooling of the suspension to 0° C., N,N-dimethyl-1,3-propanediamine (51 mg, 0.50 mmol), dissolved in CH2Cl2 (10 mL), was added dropwise over a period of 10 minutes. Following stirring for 1 hour at 0° C. and overnight at room temperature, a few drops of water were added, and the resultant mixture was extracted with CH2Cl2 (3×10 mL). Following drying of the organic phase over Na2SO4 and filtration, the solvent was removed and the residue was purified via column chromatography. The product 2-(3,3-dimethylbutyrylamino)-4,5,6,7-tetrahydrobenzthiazol-4-carboxylic acid(3-dimethylaminopropyl)amide was obtained in a yield of 125 mg (corresponding to 68% of theory).

reactant | 2-(3,3-dimethylbutyrylamino)-4,5,6,7-tetrahydrobenzthiazol-4-carboxylic acid | 0.486 mmol, 144 mg | CC(CC(=O)NC=1SC2=C(N1)C(CCC2)C(=O)O)(C)C | C14H20N2O3S
reactant | N,N-dimethyl-1,3-propanediamine | 0.50 mmol, 51 mg | CN(CCCN)C | C5H14N2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | water | a few drops | O | H2O
product | 2-(3,3-dimethylbutyrylamino)-4,5,6,7-tetrahydrobenzthiazol-4-carboxylic acid(3-dimethylaminopropyl)amide | CN(CCCNC(=O)C1CCCC2=C1N=C(S2)NC(CC(C)(C)C)=O)C | C19H32N4O2S
